// Generated for: spectre
// Generated on: Mar 10 23:49:55 2020
// Design library name: ece115c_project
// Design cell name: Absolute_Value_Detector
// Design view name: schematic
simulator lang=spectre
global 0 VSS! VDD!
include "/w/apps2/public.2/tech/cadence/90nm/gpdk090_v4.6/libs.oa22/gpdk090/../../models/spectre/gpdk090.scs" section=NN

// Library name: gsclib090
// Cell name: NOR2X2
// View name: schematic
subckt NOR2X2 A B Y inh_VDD inh_VSS
    mp1 (Y B net41 inh_VDD) gpdk090_pmos1v w=(1.3u) l=100n as=364f ad=364f \
        ps=1.86u pd=1.86u m=(1)*(1) simM=(1)*(1)
    mp0 (net41 A inh_VDD inh_VDD) gpdk090_pmos1v w=(1.3u) l=100n as=364f \
        ad=364f ps=1.86u pd=1.86u m=(1)*(1) simM=(1)*(1)
    mn1 (Y B inh_VSS inh_VSS) gpdk090_nmos1v w=(860n) l=100n as=240.8f \
        ad=240.8f ps=1.42u pd=1.42u m=(1)*(1) simM=(1)*(1)
    mn0 (Y A inh_VSS inh_VSS) gpdk090_nmos1v w=(860n) l=100n as=240.8f \
        ad=240.8f ps=1.42u pd=1.42u m=(1)*(1) simM=(1)*(1)
ends NOR2X2
// End of subcircuit definition.

// Library name: gsclib090
// Cell name: NAND2X4
// View name: schematic
subckt NAND2X4 A B Y inh_VDD inh_VSS
    mp1 (Y B inh_VDD inh_VDD) gpdk090_pmos1v w=(2.6u) l=100n as=728f \
        ad=728f ps=3.16u pd=3.16u m=(1)*(1) simM=(1)*(1)
    mp0 (Y A inh_VDD inh_VDD) gpdk090_pmos1v w=(2.6u) l=100n as=728f \
        ad=728f ps=3.16u pd=3.16u m=(1)*(1) simM=(1)*(1)
    mn1 (Y B n0 inh_VSS) gpdk090_nmos1v w=(1.72u) l=100n as=481.6f \
        ad=481.6f ps=2.28u pd=2.28u m=(1)*(1) simM=(1)*(1)
    mn0 (n0 A inh_VSS inh_VSS) gpdk090_nmos1v w=(1.72u) l=100n as=481.6f \
        ad=481.6f ps=2.28u pd=2.28u m=(1)*(1) simM=(1)*(1)
ends NAND2X4
// End of subcircuit definition.

// Library name: gsclib090
// Cell name: NAND2X2
// View name: schematic
subckt NAND2X2 A B Y inh_VDD inh_VSS
    mp1 (Y B inh_VDD inh_VDD) gpdk090_pmos1v w=(1.3u) l=100n as=364f \
        ad=364f ps=1.86u pd=1.86u m=(1)*(1) simM=(1)*(1)
    mp0 (Y A inh_VDD inh_VDD) gpdk090_pmos1v w=(1.3u) l=100n as=364f \
        ad=364f ps=1.86u pd=1.86u m=(1)*(1) simM=(1)*(1)
    mn1 (Y B n0 inh_VSS) gpdk090_nmos1v w=(860n) l=100n as=240.8f \
        ad=240.8f ps=1.42u pd=1.42u m=(1)*(1) simM=(1)*(1)
    mn0 (n0 A inh_VSS inh_VSS) gpdk090_nmos1v w=(860n) l=100n as=240.8f \
        ad=240.8f ps=1.42u pd=1.42u m=(1)*(1) simM=(1)*(1)
ends NAND2X2
// End of subcircuit definition.

// Library name: gsclib090
// Cell name: INVX1
// View name: schematic
subckt INVX1 A Y inh_VDD inh_VSS
    mp0 (Y A inh_VDD inh_VDD) gpdk090_pmos1v w=(650n) l=100n as=182f \
        ad=182f ps=1.21u pd=1.21u m=(1)*(1) simM=(1)*(1)
    mn0 (Y A inh_VSS inh_VSS) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1) simM=(1)*(1)
ends INVX1
// End of subcircuit definition.

// Library name: gsclib090
// Cell name: INVX2
// View name: schematic
subckt INVX2 A Y inh_VDD inh_VSS
    mp0 (Y A inh_VDD inh_VDD) gpdk090_pmos1v w=(1.3u) l=100n as=364f \
        ad=364f ps=1.86u pd=1.86u m=(1)*(1) simM=(1)*(1)
    mn0 (Y A inh_VSS inh_VSS) gpdk090_nmos1v w=(860n) l=100n as=240.8f \
        ad=240.8f ps=1.42u pd=1.42u m=(1)*(1) simM=(1)*(1)
ends INVX2
// End of subcircuit definition.

// Library name: gsclib090
// Cell name: NAND3X2
// View name: schematic
subckt NAND3X2 A B C Y inh_VDD inh_VSS
    mp0 (Y A inh_VDD inh_VDD) gpdk090_pmos1v w=(1.3u) l=100n as=364f \
        ad=364f ps=1.86u pd=1.86u m=(1)*(1) simM=(1)*(1)
    mp1 (Y B inh_VDD inh_VDD) gpdk090_pmos1v w=(1.3u) l=100n as=364f \
        ad=364f ps=1.86u pd=1.86u m=(1)*(1) simM=(1)*(1)
    mp2 (Y C inh_VDD inh_VDD) gpdk090_pmos1v w=(1.3u) l=100n as=364f \
        ad=364f ps=1.86u pd=1.86u m=(1)*(1) simM=(1)*(1)
    mn1 (n0 B n1 inh_VSS) gpdk090_nmos1v w=(860n) l=100n as=240.8f \
        ad=240.8f ps=1.42u pd=1.42u m=(1)*(1) simM=(1)*(1)
    mn2 (Y C n0 inh_VSS) gpdk090_nmos1v w=(860n) l=100n as=240.8f \
        ad=240.8f ps=1.42u pd=1.42u m=(1)*(1) simM=(1)*(1)
    mn0 (n1 A inh_VSS inh_VSS) gpdk090_nmos1v w=(860n) l=100n as=240.8f \
        ad=240.8f ps=1.42u pd=1.42u m=(1)*(1) simM=(1)*(1)
ends NAND3X2
// End of subcircuit definition.

// Library name: gsclib090
// Cell name: XOR2X1
// View name: schematic
subckt XOR2X1 A B Y inh_VDD inh_VSS
    mp3 (n0 n2 net130 inh_VDD) gpdk090_pmos1v w=(360n) l=100n as=100.8f \
        ad=100.8f ps=920n pd=920n m=(1)*(1) simM=(1)*(1)
    mp1 (n2 B inh_VDD inh_VDD) gpdk090_pmos1v w=(360n) l=100n as=100.8f \
        ad=100.8f ps=920n pd=920n m=(1)*(1) simM=(1)*(1)
    mp4 (n1 B n0 inh_VDD) gpdk090_pmos1v w=(360n) l=100n as=100.8f \
        ad=100.8f ps=920n pd=920n m=(1)*(1) simM=(1)*(1)
    mp0 (n1 A inh_VDD inh_VDD) gpdk090_pmos1v w=(360n) l=100n as=100.8f \
        ad=100.8f ps=920n pd=920n m=(1)*(1) simM=(1)*(1)
    mp5 (Y n0 inh_VDD inh_VDD) gpdk090_pmos1v w=(650n) l=100n as=182f \
        ad=182f ps=1.21u pd=1.21u m=(1)*(1) simM=(1)*(1)
    mp2 (net130 n1 inh_VDD inh_VDD) gpdk090_pmos1v w=(360n) l=100n \
        as=100.8f ad=100.8f ps=920n pd=920n m=(1)*(1) simM=(1)*(1)
    mn1 (n2 B inh_VSS inh_VSS) gpdk090_nmos1v w=(240n) l=100n as=67.2f \
        ad=67.2f ps=800n pd=800n m=(1)*(1) simM=(1)*(1)
    mn0 (n1 A inh_VSS inh_VSS) gpdk090_nmos1v w=(240n) l=100n as=67.2f \
        ad=67.2f ps=800n pd=800n m=(1)*(1) simM=(1)*(1)
    mn5 (Y n0 inh_VSS inh_VSS) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1) simM=(1)*(1)
    mn3 (n0 B net131 inh_VSS) gpdk090_nmos1v w=(240n) l=100n as=67.2f \
        ad=67.2f ps=800n pd=800n m=(1)*(1) simM=(1)*(1)
    mn4 (n0 n2 n1 inh_VSS) gpdk090_nmos1v w=(240n) l=100n as=67.2f \
        ad=67.2f ps=800n pd=800n m=(1)*(1) simM=(1)*(1)
    mn2 (net131 n1 inh_VSS inh_VSS) gpdk090_nmos1v w=(240n) l=100n \
        as=67.2f ad=67.2f ps=800n pd=800n m=(1)*(1) simM=(1)*(1)
ends XOR2X1
// End of subcircuit definition.

// Library name: gsclib090
// Cell name: XOR2X2
// View name: schematic
subckt XOR2X2 A B Y inh_VDD inh_VSS
    mp3 (n0 n2 net130 inh_VDD) gpdk090_pmos1v w=(360n) l=100n as=100.8f \
        ad=100.8f ps=920n pd=920n m=(1)*(1) simM=(1)*(1)
    mp1 (n2 B inh_VDD inh_VDD) gpdk090_pmos1v w=(360n) l=100n as=100.8f \
        ad=100.8f ps=920n pd=920n m=(1)*(1) simM=(1)*(1)
    mp4 (n1 B n0 inh_VDD) gpdk090_pmos1v w=(360n) l=100n as=100.8f \
        ad=100.8f ps=920n pd=920n m=(1)*(1) simM=(1)*(1)
    mp0 (n1 A inh_VDD inh_VDD) gpdk090_pmos1v w=(360n) l=100n as=100.8f \
        ad=100.8f ps=920n pd=920n m=(1)*(1) simM=(1)*(1)
    mp5 (Y n0 inh_VDD inh_VDD) gpdk090_pmos1v w=(1.3u) l=100n as=364f \
        ad=364f ps=1.86u pd=1.86u m=(1)*(1) simM=(1)*(1)
    mp2 (net130 n1 inh_VDD inh_VDD) gpdk090_pmos1v w=(360n) l=100n \
        as=100.8f ad=100.8f ps=920n pd=920n m=(1)*(1) simM=(1)*(1)
    mn1 (n2 B inh_VSS inh_VSS) gpdk090_nmos1v w=(240n) l=100n as=67.2f \
        ad=67.2f ps=800n pd=800n m=(1)*(1) simM=(1)*(1)
    mn0 (n1 A inh_VSS inh_VSS) gpdk090_nmos1v w=(240n) l=100n as=67.2f \
        ad=67.2f ps=800n pd=800n m=(1)*(1) simM=(1)*(1)
    mn5 (Y n0 inh_VSS inh_VSS) gpdk090_nmos1v w=(860n) l=100n as=240.8f \
        ad=240.8f ps=1.42u pd=1.42u m=(1)*(1) simM=(1)*(1)
    mn3 (n0 B net131 inh_VSS) gpdk090_nmos1v w=(240n) l=100n as=67.2f \
        ad=67.2f ps=800n pd=800n m=(1)*(1) simM=(1)*(1)
    mn4 (n0 n2 n1 inh_VSS) gpdk090_nmos1v w=(240n) l=100n as=67.2f \
        ad=67.2f ps=800n pd=800n m=(1)*(1) simM=(1)*(1)
    mn2 (net131 n1 inh_VSS inh_VSS) gpdk090_nmos1v w=(240n) l=100n \
        as=67.2f ad=67.2f ps=800n pd=800n m=(1)*(1) simM=(1)*(1)
ends XOR2X2
// End of subcircuit definition.

// Library name: gsclib090
// Cell name: NOR2X4
// View name: schematic
subckt NOR2X4 A B Y inh_VDD inh_VSS
    mp1 (Y B net41 inh_VDD) gpdk090_pmos1v w=(2.6u) l=100n as=728f ad=728f \
        ps=3.16u pd=3.16u m=(1)*(1) simM=(1)*(1)
    mp0 (net41 A inh_VDD inh_VDD) gpdk090_pmos1v w=(2.6u) l=100n as=728f \
        ad=728f ps=3.16u pd=3.16u m=(1)*(1) simM=(1)*(1)
    mn1 (Y B inh_VSS inh_VSS) gpdk090_nmos1v w=(1.72u) l=100n as=481.6f \
        ad=481.6f ps=2.28u pd=2.28u m=(1)*(1) simM=(1)*(1)
    mn0 (Y A inh_VSS inh_VSS) gpdk090_nmos1v w=(1.72u) l=100n as=481.6f \
        ad=481.6f ps=2.28u pd=2.28u m=(1)*(1) simM=(1)*(1)
ends NOR2X4
// End of subcircuit definition.

// Library name: ece115c_project
// Cell name: Absolute_Value_Detector
// View name: schematic
I135 (net0124 net0166 net0127 VDD! 0) NOR2X2
I130 (net0123 net0165 net0126 VDD! 0) NOR2X2
I123 (net0122 net0164 net0125 VDD! 0) NOR2X2
I109 (net0163 net0121 net0174 VDD! 0) NOR2X2
I91 (net0148 net0206 net0147 Vdd 0) NOR2X2
I75 (net0110 net0207 net0151 Vdd 0) NOR2X2
I34 (net13 net22 net12 Vdd 0) NOR2X2
I35 (net32 net34 net035 Vdd 0) NOR2X2
I118 (net0187 net0186 Z VDD! 0) NAND2X4
I110 (net0178 net0177 net0181 VDD! 0) NAND2X4
I107 (net0176 net0175 net0185 VDD! 0) NAND2X4
I128 (net0127 net0123 net0183 VDD! 0) NAND2X2
I120 (net0184 net0183 net0191 VDD! 0) NAND2X2
I117 (net0127 net0126 net0194 VDD! 0) NAND2X2
I106 (net0125 net0121 net0193 VDD! VSS!) NAND2X2
I100 (net0127 net0126 net0201 VDD! 0) NAND2X2
I97 (A5 net0103 net0148 Vdd 0) NAND2X2
I81 (net0147 net0102 net0110 Vdd 0) NAND2X2
I32 (A5 net5 net13 Vdd 0) NAND2X2
I33 (net12 net4 net32 Vdd 0) NAND2X2
I89 (net099 net0206 Vdd 0) INVX1
I88 (net0148 net0203 Vdd 0) INVX1
I74 (net0110 net0204 Vdd 0) INVX1
I72 (net098 net0207 Vdd 0) INVX1
I29 (net13 net18 Vdd 0) INVX1
I30 (net044 net34 Vdd 0) INVX1
I28 (net3 net22 Vdd 0) INVX1
I31 (net32 net040 Vdd 0) INVX1
I60 (net049 net0188 VDD! 0) INVX2
I136 (net0124 net0184 VDD! VSS!) INVX2
I134 (net053 net0189 VDD! 0) INVX2
I132 (net048 net0190 VDD! 0) INVX2
I129 (net052 net0195 VDD! 0) INVX2
I126 (net047 net0196 VDD! 0) INVX2
I122 (net051 net0197 VDD! 0) INVX2
I119 (net0191 net0187 VDD! 0) INVX2
I116 (net0194 net0178 VDD! 0) INVX2
I115 (net046 net0198 VDD! 0) INVX2
I111 (net0192 net0186 VDD! 0) INVX2
I108 (net050 net0199 VDD! 0) INVX2
I103 (net0193 net0177 VDD! 0) INVX2
I99 (net0167 net0202 VDD! 0) INVX2
I104 (net0201 net0176 VDD! 0) INVX2
I105 (net0200 net0175 VDD! 0) INVX2
I124 (net0127 net0126 net0122 net0182 VDD! 0) NAND3X2
I112 (net0182 net0181 net0185 net0192 VDD! 0) NAND3X2
I101 (net0125 net0174 net0170 net0200 VDD! 0) NAND3X2
I95 (A5 net0103 net0101 Vdd 0) XOR2X1
I90 (A5 A1 net099 Vdd 0) XOR2X1
I87 (net0203 net099 net050 Vdd 0) XOR2X1
I80 (A5 A2 net0102 Vdd 0) XOR2X1
I79 (net0147 net0102 net051 Vdd 0) XOR2X1
I73 (A5 A3 net098 Vdd 0) XOR2X1
I71 (net0204 net098 net052 Vdd 0) XOR2X1
I64 (A5 A4 net0205 Vdd 0) XOR2X1
I61 (A5 net5 net0167 Vdd 0) XOR2X1
I21 (net040 net044 net048 Vdd 0) XOR2X1
I20 (net12 net4 net047 Vdd 0) XOR2X1
I19 (net18 net3 net046 Vdd 0) XOR2X1
I23 (A5 A1 net3 Vdd 0) XOR2X1
I24 (A5 A2 net4 Vdd 0) XOR2X1
I25 (A5 A3 net044 Vdd 0) XOR2X1
I26 (A5 A4 net041 Vdd 0) XOR2X1
I96 (A5 A0 net0103 Vdd 0) XOR2X2
I65 (net0151 net0205 net053 Vdd 0) XOR2X2
I22 (net035 net041 net049 Vdd 0) XOR2X2
I27 (A5 A0 net5 Vdd 0) XOR2X2
I137 (net0188 net053 net0124 VDD! 0) NOR2X4
I133 (net0189 net049 net0166 VDD! 0) NOR2X4
I131 (net0190 net052 net0123 VDD! 0) NOR2X4
I127 (net0195 net048 net0165 VDD! 0) NOR2X4
I125 (net0196 net051 net0122 VDD! 0) NOR2X4
I121 (net0197 net047 net0164 VDD! 0) NOR2X4
I114 (net0198 net050 net0163 VDD! 0) NOR2X4
I102 (net0199 net046 net0121 VDD! 0) NOR2X4
I98 (net0202 net0101 net0170 VDD! 0) NOR2X4
V0 (VDD! 0) vsource dc=1 type=dc
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
