// Generated for: spectre
// Generated on: Mar 11 16:22:51 2020
// Design library name: tb_project
// Design cell name: Abs_Value_Detector
// Design view name: schematic
simulator lang=spectre
global 0
include "/w/apps2/public.2/tech/cadence/90nm/gpdk090_v4.6/libs.oa22/gpdk090/../../models/spectre/gpdk090.scs" section=NN

// Library name: gsclib090
// Cell name: INVX1
// View name: schematic
subckt INVX1 A Y inh_VDD inh_VSS
    mp0 (Y A inh_VDD inh_VDD) gpdk090_pmos1v w=(650n) l=100n as=182f \
        ad=182f ps=1.21u pd=1.21u m=(1)*(1) simM=(1)*(1)
    mn0 (Y A inh_VSS inh_VSS) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1) simM=(1)*(1)
ends INVX1
// End of subcircuit definition.

// Library name: gsclib090
// Cell name: INVX2
// View name: schematic
subckt INVX2 A Y inh_VDD inh_VSS
    mp0 (Y A inh_VDD inh_VDD) gpdk090_pmos1v w=(1.3u) l=100n as=364f \
        ad=364f ps=1.86u pd=1.86u m=(1)*(1) simM=(1)*(1)
    mn0 (Y A inh_VSS inh_VSS) gpdk090_nmos1v w=(860n) l=100n as=240.8f \
        ad=240.8f ps=1.42u pd=1.42u m=(1)*(1) simM=(1)*(1)
ends INVX2
// End of subcircuit definition.

// Library name: gsclib090
// Cell name: NOR2X1
// View name: schematic
subckt NOR2X1 A B Y inh_VDD inh_VSS
    mp1 (Y B net41 inh_VDD) gpdk090_pmos1v w=(650n) l=100n as=182f ad=182f \
        ps=1.21u pd=1.21u m=(1)*(1) simM=(1)*(1)
    mp0 (net41 A inh_VDD inh_VDD) gpdk090_pmos1v w=(650n) l=100n as=182f \
        ad=182f ps=1.21u pd=1.21u m=(1)*(1) simM=(1)*(1)
    mn1 (Y B inh_VSS inh_VSS) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1) simM=(1)*(1)
    mn0 (Y A inh_VSS inh_VSS) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1) simM=(1)*(1)
ends NOR2X1
// End of subcircuit definition.

// Library name: gsclib090
// Cell name: XOR2X1
// View name: schematic
subckt XOR2X1 A B Y inh_VDD inh_VSS
    mp3 (n0 n2 net130 inh_VDD) gpdk090_pmos1v w=(360n) l=100n as=100.8f \
        ad=100.8f ps=920n pd=920n m=(1)*(1) simM=(1)*(1)
    mp1 (n2 B inh_VDD inh_VDD) gpdk090_pmos1v w=(360n) l=100n as=100.8f \
        ad=100.8f ps=920n pd=920n m=(1)*(1) simM=(1)*(1)
    mp4 (n1 B n0 inh_VDD) gpdk090_pmos1v w=(360n) l=100n as=100.8f \
        ad=100.8f ps=920n pd=920n m=(1)*(1) simM=(1)*(1)
    mp0 (n1 A inh_VDD inh_VDD) gpdk090_pmos1v w=(360n) l=100n as=100.8f \
        ad=100.8f ps=920n pd=920n m=(1)*(1) simM=(1)*(1)
    mp5 (Y n0 inh_VDD inh_VDD) gpdk090_pmos1v w=(650n) l=100n as=182f \
        ad=182f ps=1.21u pd=1.21u m=(1)*(1) simM=(1)*(1)
    mp2 (net130 n1 inh_VDD inh_VDD) gpdk090_pmos1v w=(360n) l=100n \
        as=100.8f ad=100.8f ps=920n pd=920n m=(1)*(1) simM=(1)*(1)
    mn1 (n2 B inh_VSS inh_VSS) gpdk090_nmos1v w=(240n) l=100n as=67.2f \
        ad=67.2f ps=800n pd=800n m=(1)*(1) simM=(1)*(1)
    mn0 (n1 A inh_VSS inh_VSS) gpdk090_nmos1v w=(240n) l=100n as=67.2f \
        ad=67.2f ps=800n pd=800n m=(1)*(1) simM=(1)*(1)
    mn5 (Y n0 inh_VSS inh_VSS) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1) simM=(1)*(1)
    mn3 (n0 B net131 inh_VSS) gpdk090_nmos1v w=(240n) l=100n as=67.2f \
        ad=67.2f ps=800n pd=800n m=(1)*(1) simM=(1)*(1)
    mn4 (n0 n2 n1 inh_VSS) gpdk090_nmos1v w=(240n) l=100n as=67.2f \
        ad=67.2f ps=800n pd=800n m=(1)*(1) simM=(1)*(1)
    mn2 (net131 n1 inh_VSS inh_VSS) gpdk090_nmos1v w=(240n) l=100n \
        as=67.2f ad=67.2f ps=800n pd=800n m=(1)*(1) simM=(1)*(1)
ends XOR2X1
// End of subcircuit definition.

// Library name: gsclib090
// Cell name: XOR2X2
// View name: schematic
subckt XOR2X2 A B Y inh_VDD inh_VSS
    mp3 (n0 n2 net130 inh_VDD) gpdk090_pmos1v w=(360n) l=100n as=100.8f \
        ad=100.8f ps=920n pd=920n m=(1)*(1) simM=(1)*(1)
    mp1 (n2 B inh_VDD inh_VDD) gpdk090_pmos1v w=(360n) l=100n as=100.8f \
        ad=100.8f ps=920n pd=920n m=(1)*(1) simM=(1)*(1)
    mp4 (n1 B n0 inh_VDD) gpdk090_pmos1v w=(360n) l=100n as=100.8f \
        ad=100.8f ps=920n pd=920n m=(1)*(1) simM=(1)*(1)
    mp0 (n1 A inh_VDD inh_VDD) gpdk090_pmos1v w=(360n) l=100n as=100.8f \
        ad=100.8f ps=920n pd=920n m=(1)*(1) simM=(1)*(1)
    mp5 (Y n0 inh_VDD inh_VDD) gpdk090_pmos1v w=(1.3u) l=100n as=364f \
        ad=364f ps=1.86u pd=1.86u m=(1)*(1) simM=(1)*(1)
    mp2 (net130 n1 inh_VDD inh_VDD) gpdk090_pmos1v w=(360n) l=100n \
        as=100.8f ad=100.8f ps=920n pd=920n m=(1)*(1) simM=(1)*(1)
    mn1 (n2 B inh_VSS inh_VSS) gpdk090_nmos1v w=(240n) l=100n as=67.2f \
        ad=67.2f ps=800n pd=800n m=(1)*(1) simM=(1)*(1)
    mn0 (n1 A inh_VSS inh_VSS) gpdk090_nmos1v w=(240n) l=100n as=67.2f \
        ad=67.2f ps=800n pd=800n m=(1)*(1) simM=(1)*(1)
    mn5 (Y n0 inh_VSS inh_VSS) gpdk090_nmos1v w=(860n) l=100n as=240.8f \
        ad=240.8f ps=1.42u pd=1.42u m=(1)*(1) simM=(1)*(1)
    mn3 (n0 B net131 inh_VSS) gpdk090_nmos1v w=(240n) l=100n as=67.2f \
        ad=67.2f ps=800n pd=800n m=(1)*(1) simM=(1)*(1)
    mn4 (n0 n2 n1 inh_VSS) gpdk090_nmos1v w=(240n) l=100n as=67.2f \
        ad=67.2f ps=800n pd=800n m=(1)*(1) simM=(1)*(1)
    mn2 (net131 n1 inh_VSS inh_VSS) gpdk090_nmos1v w=(240n) l=100n \
        as=67.2f ad=67.2f ps=800n pd=800n m=(1)*(1) simM=(1)*(1)
ends XOR2X2
// End of subcircuit definition.

// Library name: gsclib090
// Cell name: NAND2X1
// View name: schematic
subckt NAND2X1 A B Y inh_VDD inh_VSS
    mp1 (Y B inh_VDD inh_VDD) gpdk090_pmos1v w=(650n) l=100n as=182f \
        ad=182f ps=1.21u pd=1.21u m=(1)*(1) simM=(1)*(1)
    mp0 (Y A inh_VDD inh_VDD) gpdk090_pmos1v w=(650n) l=100n as=182f \
        ad=182f ps=1.21u pd=1.21u m=(1)*(1) simM=(1)*(1)
    mn1 (Y B n0 inh_VSS) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1) simM=(1)*(1)
    mn0 (n0 A inh_VSS inh_VSS) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1) simM=(1)*(1)
ends NAND2X1
// End of subcircuit definition.

// Library name: gsclib090
// Cell name: NAND3X1
// View name: schematic
subckt NAND3X1 A B C Y inh_VDD inh_VSS
    mp0 (Y A inh_VDD inh_VDD) gpdk090_pmos1v w=(650n) l=100n as=182f \
        ad=182f ps=1.21u pd=1.21u m=(1)*(1) simM=(1)*(1)
    mp1 (Y B inh_VDD inh_VDD) gpdk090_pmos1v w=(650n) l=100n as=182f \
        ad=182f ps=1.21u pd=1.21u m=(1)*(1) simM=(1)*(1)
    mp2 (Y C inh_VDD inh_VDD) gpdk090_pmos1v w=(650n) l=100n as=182f \
        ad=182f ps=1.21u pd=1.21u m=(1)*(1) simM=(1)*(1)
    mn1 (n0 B n1 inh_VSS) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1) simM=(1)*(1)
    mn2 (Y C n0 inh_VSS) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1) simM=(1)*(1)
    mn0 (n1 A inh_VSS inh_VSS) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1) simM=(1)*(1)
ends NAND3X1
// End of subcircuit definition.

// Library name: tb_project
// Cell name: Abs_Value_Detector
// View name: schematic
I29 (net13 net18 VDD GND) INVX1
I30 (net044 net34 VDD GND) INVX1
I28 (net3 net22 VDD GND) INVX1
I31 (net32 net040 VDD GND) INVX1
I60 (net049 net0188 VDD GND) INVX2
I136 (net0124 net0184 VDD GND) INVX2
I134 (T0 net0189 VDD GND) INVX2
I132 (net048 net0190 VDD GND) INVX2
I129 (T1 net0195 VDD GND) INVX2
I126 (net047 net0196 VDD GND) INVX2
I122 (T2 net0197 VDD GND) INVX2
I119 (net0191 net0187 VDD GND) INVX2
I116 (net0194 net0178 VDD GND) INVX2
I115 (net046 net0198 VDD GND) INVX2
I111 (net0192 net0186 VDD GND) INVX2
I108 (T3 net0199 VDD GND) INVX2
I103 (net0193 net0177 VDD GND) INVX2
I99 (net0167 net0202 VDD GND) INVX2
I104 (net0201 net0176 VDD GND) INVX2
I105 (net0200 net0175 VDD GND) INVX2
I137 (net0188 T0 net0124 VDD GND) NOR2X1
I135 (net0124 net0166 net0127 VDD GND) NOR2X1
I133 (net0189 net049 net0166 VDD GND) NOR2X1
I131 (net0190 T1 net0123 VDD GND) NOR2X1
I130 (net0123 net0165 net0126 VDD GND) NOR2X1
I127 (net0195 net048 net0165 VDD GND) NOR2X1
I125 (net0196 T2 net0122 VDD GND) NOR2X1
I123 (net0122 net0164 net0125 VDD GND) NOR2X1
I121 (net0197 net047 net0164 VDD GND) NOR2X1
I114 (net0198 T3 net0163 VDD GND) NOR2X1
I109 (net0163 net0121 net0174 VDD GND) NOR2X1
I102 (net0199 net046 net0121 VDD GND) NOR2X1
I98 (net0202 T4 net0170 VDD GND) NOR2X1
I34 (net13 net22 net12 VDD GND) NOR2X1
I35 (net32 net34 net035 VDD GND) NOR2X1
I61 (X5 net5 net0167 VDD GND) XOR2X1
I21 (net040 net044 net048 VDD GND) XOR2X1
I20 (net12 net4 net047 VDD GND) XOR2X1
I19 (net18 net3 net046 VDD GND) XOR2X1
I23 (X5 X1 net3 VDD GND) XOR2X1
I24 (X5 X2 net4 VDD GND) XOR2X1
I25 (X5 X3 net044 VDD GND) XOR2X1
I26 (X5 X4 net041 VDD GND) XOR2X1
I22 (net035 net041 net049 VDD GND) XOR2X2
I27 (X5 X0 net5 VDD GND) XOR2X2
I128 (net0127 net0123 net0183 VDD GND) NAND2X1
I120 (net0184 net0183 net0191 VDD GND) NAND2X1
I118 (net0187 net0186 OUT VDD GND) NAND2X1
I117 (net0127 net0126 net0194 VDD GND) NAND2X1
I110 (net0178 net0177 net0181 VDD GND) NAND2X1
I106 (net0125 net0121 net0193 VDD GND) NAND2X1
I100 (net0127 net0126 net0201 VDD GND) NAND2X1
I107 (net0176 net0175 net0185 VDD GND) NAND2X1
I32 (X5 net5 net13 VDD GND) NAND2X1
I33 (net12 net4 net32 VDD GND) NAND2X1
I124 (net0127 net0126 net0122 net0182 VDD GND) NAND3X1
I112 (net0182 net0181 net0185 net0192 VDD GND) NAND3X1
I101 (net0125 net0174 net0170 net0200 VDD GND) NAND3X1
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
